US06172057B2
2-[(2-Hydroxy-ethyl)-(4-methoxy-benzyl)-amino]-ethanol was prepared according to the general method as outlined in example 83. Starting from diethanolamine (12.0 g, 114 mmol) and 4-methoxybenzyl chloride (14.2 g, 100 mmol). Yield 17.5 g, (77%); yellow oil; MS: 226 (M+H).

reactant | diethanolamine | 114 mmol, 12.0 g | N(CCO)CCO | C4H11NO2
reactant | 4-methoxybenzyl chloride | 100 mmol, 14.2 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | 2-[(2-Hydroxy-ethyl)-(4-methoxy-benzyl)-amino]-ethanol | OCCN(CCO)CC1=CC=C(C=C1)OC | C12H19NO3
